US04990517
(a) 8-Benzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane
15.6 g (66 mmol) of 1-benzyl-4-hydroxy-3-(2-hydroxyethylamino)-pyrrolidine are heated under reflux in a mixture of 60 ml of concentrated sulphuric acid and 20 ml of water for 6 hours. The mixture is rendered alkaline with concentrated sodium hydroxide solution, the sodium sulphate which has precipitated is filtered off with suction and the filtrate is extracted with chloroform. The extract is dried over potassium carbonate and concentrated and the residue is distilled.

reactant | 1-benzyl-4-hydroxy-3-(2-hydroxyethylamino)-pyrrolidine | 66 mmol, 15.6 g | C(C1=CC=CC=C1)N1CC(C(C1)O)NCCO | C13H20N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulphuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 ml | O | H2O
product | 8-Benzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane | C(C1=CC=CC=C1)N1CC2NCCOC2C1 | C13H18N2O
